US04265830
To 240 ml. of 30-33% fuming sulfuric acid at 120° C. is added, portionwise, 60 g. of 1,5-naphthalenedisulfonic acid disodium salt. The mixture is heated at 180°-190° C. for 23 hours. The solution is cooled, allowed to crystallize and filtered through a course sintered glass funnel. The product is washed with concentrated sulfuric acid to give 1,3,5,7-naphthalenetetrasulfonic acid as an off-white pasty solid. Without further purification, the solid is added, portionwise, to 150 ml. of chlorosulfonic acid and the mixture is heated at 145°-150° C. for 1.5 hours. The mixture is cooled to room temperature and filtered. The product is washed, in order, with chlorosulfonic acid, methylene chloride, acetonitrile, water, acetonitrile and finally with ether. The product is air-dried and then dried further in an Abderhalden apparatus at 76° C. to provide 33.9 g. of the desired product as a colorless powder, m.p. 263°-270° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,5-naphthalenedisulfonic acid disodium salt | [Na+].[Na+].C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-]
product | 1,3,5,7-naphthalenetetrasulfonic acid | C1(=CC(=CC=2C(=CC(=CC12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O12S4
